US05116839
2-(b): 3-(2-Hydroxy-3-morpholinopropoxy)-5-phenylisoxazole.hydrochloride
To a solution of 5.00 g of 3-(2-hydroxy-3-morpholinopropoxy-5-phenylisoxazole dissolved in ethyl acetate (200 ml) was added a 4N HCl/dioxane solution (5.0 ml) and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was concentrated under reduced pressure to afford 5.21 g of the title compound with melting point 149°-150° C. as colorless powdery crystals.

reactant | 2-hydroxy-3-morpholinopropoxy-5-phenylisoxazole | ON1OC(=CC1OCCCN1CCOCC1)C1=CC=CC=C1 | C16H22N2O4
reactant | HCl dioxane | 4N, 5.0 ml | Cl.O1CCOCC1
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Hydroxy-3-morpholinopropoxy)-5-phenylisoxazole.hydrochloride | 5.21 g | Cl.OC(COC1=NOC(=C1)C1=CC=CC=C1)CN1CCOCC1 | InChI=1S/C16H20N2O4.ClH/c19-14(11-18-6-8-20-9-7-18)12-21-16-10-15(22-17-16)13-4-2-1-3-5-13;/h1-5,10,14,19H,6-9,11-12H2;1H
